US05451653
Preparation of Benzylidene Butylamine
To a stirred mixture of 20 g of water and 21.2 g of benzaldehyde, butylamine (14.6 g) was added under an nitrogen atmosphere. After being stirred for 45 minutes at room temperature, the agitation was stopped and the reaction mixture was allowed to stand for at least 15 minutes. The lower aqueous layer was then separated from the reaction mixture. The upper layer was collected and dried over anhydrous magnesium sulfate to give 22.0 g of product. 1H NMR (300 Hz, CDCl3, ppm): 8.25 (1H, s), 7.69 (2H, m), 7.39 (3H, m), 3.60 (2H, t, J=7.0 Hz), 1.68 (2H, p, J=7.3 Hz), 1.39 (2H, hex. J=7.7 Hz), 0.94 (3H, t, J=7.3 Hz)).

reactant | benzaldehyde | 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | butylamine | 14.6 g | C(CCC)N | C4H11N
solvent | water | 20 g | O | H2O
product | Benzylidene Butylamine | 22.0 g | C(C1=CC=CC=C1)=CCCCN | C11H15N
